US07268231B2
To a suspension of 2-(2-chloro-4-fluoro-benzylamino)-thiazol-4-one (41.4 mg, 0.16 mmol), and 1,5-naphthyridine-6-carboxaldehyde (31.6 mg, 0.2 mmol) in toluene (1 mL) in a microwave tube were added benzoic acid (2.0 mg, 0.02 mmol) and piperidine (1.7 uM, 0.02 mmol). The reaction mixture was heated to 130° C. with microwave for 15 min., then cooled to r.t. and diluted with toluene. The solid was collected by filtration and washed with toluene, MeOH and ether to give 2-(2-chloro-4-fluoro-benzylamino)-5-[1,5]naphthyridin-2-ylmethylene-thiazol-4-one as a brown solid (30.5 mg, 47.8%). HR-ES (+) m/e calcd. for C19H12FClN4OS: (M+H)+ 399.0477. Found: 399.0476.

reactant | 2-(2-chloro-4-fluoro-benzylamino)-thiazol-4-one | 0.16 mmol, 41.4 mg | ClC1=C(CNC=2SCC(N2)=O)C=CC(=C1)F | C10H8ClFN2OS
reactant | 1,5-naphthyridine-6-carboxaldehyde | 0.2 mmol, 31.6 mg | N1=CC=CC2=NC(=CC=C12)C=O | C9H6N2O
reactant | benzoic acid | 0.02 mmol, 2.0 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 0.02 mmol, 1.7 uM | N1CCCCC1 | C5H11N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-chloro-4-fluoro-benzylamino)-5-[1,5]naphthyridin-2-ylmethylene-thiazol-4-one | 30.5 mg, 47.8% | ClC1=C(CNC=2SC(C(N2)=O)=CC2=NC3=CC=CN=C3C=C2)C=CC(=C1)F | C19H12ClFN4OS
